US06780878B2
A. 2-chloro-N-(4-methoxyphenyl)pyridine-3-carboxamide
2-Chloronicotinyl chloride hydrochloride (2.94 g, 16.5 mmol) was added in portions to a solution of pyridine (4.0 mL) and 4-anisidine (2.0 g, 16.2 mmol) in chloroform. After 0.5 h, the mixture was poured into EtOAc and 1 N NaOH. The organic layer was washed with 1 N NaOH (1×), water (1×), dried over potassium carbonate, and concentrated. The residue was purified by recrystallization (EtOAc:hexanes) yielding 2.56 g (60%) of the title compound.

reactant | 2-Chloronicotinyl chloride hydrochloride | 16.5 mmol, 2.94 g | Cl.ClC1=C(CCl)C=CC=N1
reactant | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-anisidine | 16.2 mmol, 2.0 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-N-(4-methoxyphenyl)pyridine-3-carboxamide | 2.56 g, 60% | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)OC | C13H11ClN2O2
